US08034811B2
O-Naphthalen-1-ylmethyl-hydroxylamine
Prepared by a similar procedure as described for preparation 13. Starting materials: N-Hydroxyphthalimide and 1-chloromethyl-naphthalen. 13C-NMR (DMSO-d6) δ 133.5, 133.2, 131.4, 128.2, 126.8, 126.7, 126.0, 125.6, 125.2, 124.1, 75.4.

reactant | N-Hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 1-chloromethyl-naphthalen | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
product | O-Naphthalen-1-ylmethyl-hydroxylamine | C1(=CC=CC2=CC=CC=C12)CON | C11H11NO
